US07902401B2
To an acetonitrile solution of methyl 2-(dibenzylamino)-3-hydroxypropanoate (23 g, 76.8 mmol) and sodium sulfate (3.9 g, 27.4 mmol) at 40° C., difluoro(fluorosulfonyl)acetic acid (25 g, 140 mmol) was added dropwise for 1.5 hrs. The reaction mixture was concentrated to dryness and the residue mixed with silica gel in ethyl acetate, then again concentrated to dryness. The product was purified by column chromatography, eluting with 3-4% ethyl acetate in hexanes, to give methyl 2-dibenzylamino-3-difluoromethoxy-propionate (1.3 g, 4.8%) as a colorless oil. 1H NMR (300 MHz, CDCl3): δ(ppm) 7.20-7.40 (m, 10H), 6.18 (bt, 1H), 4.05-4.24 (m, 2H), 3.90 (d, 2H), 3.83 (s, 3H) and 3.64-3.71 (m, 3H).

reactant | methyl 2-(dibenzylamino)-3-hydroxypropanoate | 76.8 mmol, 23 g | C(C1=CC=CC=C1)N(C(C(=O)OC)CO)CC1=CC=CC=C1 | C18H21NO3
reactant | sodium sulfate | 27.4 mmol, 3.9 g | S(=O)(=O)([O-])[O-].[Na+].[Na+]
reactant | difluoro(fluorosulfonyl)acetic acid | 140 mmol, 25 g | FC(C(=O)O)(S(=O)(=O)F)F | C2HF3O4S
solvent | acetonitrile | C(C)#N | C2H3N
product | methyl 2-dibenzylamino-3-difluoromethoxy-propionate | 1.3 g, 4.8% | C(C1=CC=CC=C1)N(C(C(=O)OC)COC(F)F)CC1=CC=CC=C1 | C19H21F2NO3
